US05064649
7β-[2-(2-Aminothiazol-4-yl)-2-Z-hydroxyiminoacetamido]-3-(2,5-dihydro-2-oxofuran-5-ylmethyl)ceph-3-em-4-carboxylic acid.
Sodium 2-(2-triphenylmethylaminothiazol-4-yl)-2-Z-triphenylmethoxyiminoacetate (1.33 g) in DMF (5 mls) was activated with methanesulphonyl chloride (0.148 mls) as described in example 7(a). Treatment with diphenylmethyl 7β-amino-3-[(5RS)-2,5-dihydro-2-oxofuran-5-ylmethyl]ceph-3-em-4-carboxylate (0.737 g) in DMF (5 mls), work up and purification by repeated flash, silica gel chromatography afforded major isomer of the title compound, (0.614 g, 35%), νmax 3380(w), 1785, 1770 (shoulder), 1755 (shoulder), 1725, 1685, 1510 and 1370cm-1 ; δH (CDCl3) 2.25 (1H, dd, J 9.9, 13.7Hz), 3.16 (1H, dd, J 2.9, 13.7Hz), 3.49 and 3.53 (2H, ABq, J 18.7Hz), 5.03 (1H, d, J 4.9Hz), 5.22 (1H, J 7.9Hz), 6.05 (1H, dd, J 1.9, 5.7Hz), 6.14 (1H, dd, J 4.9, 9.1Hz), 6.45 (1H, s), 6.76 (1H, broad s, exch.), 6.90 (1H, s), 7.07 (1H, d, J 9.1Hz, exch.), 7.19 (1H, dd, J 1.4, 5.7Hz) and 7.24 to 7.50 (40H, m); [mass spectrum: +ve ion (NOBA, Na+) MNa+ 1138]. The minor isomer was not progressed.

reactant | Sodium 2-(2-triphenylmethylaminothiazol-4-yl)-2-Z-triphenylmethoxyiminoacetate | 1.33 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)[O-])=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[Na+]
reactant | methanesulphonyl chloride | 0.148 mls | CS(=O)(=O)Cl | CH3ClO2S
reactant | diphenylmethyl 7β-amino-3-[(5RS)-2,5-dihydro-2-oxofuran-5-ylmethyl]ceph-3-em-4-carboxylate | 0.737 g | N[C@H]1[C@@H]2N(C(=C(CS2)CC2C=CC(O2)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C25H22N2O5S
solvent | DMF | 5 mls | CN(C)C=O | C3H7NO
solvent | DMF | 5 mls | CN(C)C=O | C3H7NO
product | 7β-[2-(2-Aminothiazol-4-yl)-2-Z-hydroxyiminoacetamido]-3-(2,5-dihydro-2-oxofuran-5-ylmethyl)ceph-3-em-4-carboxylic acid | 0.614 g, 35% | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CC2C=CC(O2)=O)C(=O)O)C1=O)=N/O | C17H15N5O7S2
